US04161595
Rapid addition of 10 ml. of 1 N sodium hydroxide to a suspension of BL-5111 hydrochloride (5.0 g.) in 50 ml. of rapidly stirred 95% ethanol provides a solution from which the free base begins to precipitate shortly after completing the addition (about 1 min.). The mixture is stirred for a period of 20 min. and the crystalline precipitate collected, washed with water, dried for a period of 24 hr. at 56° C. under high vacuum to afford 4-amino-6,7-dimethoxy-2-[4-(5-methylthio-1,3,4-oxadiazole-2-carbonyl)-piperazin-1-yl]quinazoline (BL-5111) free base, m.p. 228°-230° C.

reactant | sodium hydroxide | 1 N | [OH-].[Na+]
reactant | BL-5111 hydrochloride | 5.0 g | COC=1C=C2C(=CC1OC)N=C(N=C2N)N3CCN(CC3)C(=O)C4=NN=C(O4)SC.Cl
solvent | ethanol | C(C)O | C2H6O
product | 4-amino-6,7-dimethoxy-2-[4-(5-methylthio-1,3,4-oxadiazole-2-carbonyl)-piperazin-1-yl]quinazoline | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CC1)C(=O)C=1OC(=NN1)SC | C18H21N7O4S
